US07585880B2
3-[4-[[4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propanoic acid (5-methyl-2-oxo-1,3-dioxol-4-yl)methyl ester
A solution of 3-[4-[[4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propanoic acid (450 mg, 0.82 mmol), 4-(chloromethyl)-5-methyl-1,3-dioxol-2-one (146 mg, 0.99 mmol) and potassium carbonate (170 mg, 1.23 mmol) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 5 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (175 mg, yield 32%) as a colorless oil.

reactant | 3-[4-[[4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propanoic acid | 0.82 mmol, 450 mg | C1(=CC=CC=C1)CCN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C34H32N2O3S
reactant | 4-(chloromethyl)-5-methyl-1,3-dioxol-2-one | 0.99 mmol, 146 mg | ClCC=1OC(OC1C)=O | C5H5ClO3
reactant | potassium carbonate | 1.23 mmol, 170 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-[4-[[4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propanoic acid (5-methyl-2-oxo-1,3-dioxol-4-yl)methyl ester | 175 mg, yield 32% | CC1=C(OC(O1)=O)COC(CCC1=CC=C(C=C1)OCC1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=CC=C1)CCC1=CC=CC=C1)=O | C39H36N2O6S
